US04504490
5-Phenoxysulfonyl-2-ureidoaniline (formula II)
33.7 g of 5-phenoxysulfonyl-2-ureidonitrobenzene in 250 ml of methanol and 250 ml of 2-methoxyethanol are hydrogenated under normal pressure with a catalytic amount of Raney nickel. After uptake of hydrogen is complete, the catalyst is filtered off with suction, washed with dimethylformamide and the solution is evaporated under reduced pressure, induced to crystallize with methanol, and the crystals are filtered off with suction and washed with methanol, melting point 180° C., decomposition.

reactant | 5-phenoxysulfonyl-2-ureidonitrobenzene | 33.7 g | O(C1=CC=CC=C1)S(=O)(=O)C=1C=CC(=C(C1)[N+](=O)[O-])NC(=O)N | C13H11N3O6S
reactant | hydrogen | [H][H] | H2
solvent | methanol | 250 ml | CO | CH4O
solvent | 2-methoxyethanol | 250 ml | COCCO | C3H8O2
catalyst | Raney nickel | [Ni] | Ni
product | 5-Phenoxysulfonyl-2-ureidoaniline | O(C1=CC=CC=C1)S(=O)(=O)C=1C=CC(=C(N)C1)NC(=O)N | C13H13N3O4S
